US09353075B2
Step 2. Preparation of (2R,3S)-3-hydroxy-2-(6-phenylhexoxycarbonylamino)-butanoic acid
To a stirred mixture of D-threonine (0.12 g, 1.0 mmol) and NaHCO3 (0.13 g, 1.5 mmol) in H2O (3.5 mL), the crude mixture containing 6-phenylhexyl-2-pyridyl-carbonate and 6-phenylhexyl-2-oxopyridine 1-carboxylate (0.45 g, 1.5 mmol) in THF (3.5 mL) was added. After 15 h at rt, the crude mixture was rotary evaporated to remove the organics and subsequently extracted with Et2O (3×5 mL). The aqueous phase was acidified with 2M HCl solution to pH 2-3 and subsequently extracted with AcOEt (3×10 mL). The organic fraction was dried over Na2SO4, filtered and concentrated to dryness to afford the title compound (0.25 g, 78%) as transparent oil, which was used in the next step without further purification. MS (ESI) m/z: 324 [M−H]+; (ESI) m/z: 322 [M−H]−. 1H NMR (DMSO-d6): δ 1.08 (d, J=6.4 Hz, 3H), 1.24-1.40 (m, 4H), 1.46-1.63 (m, 4H), 2.56 (t, J=7.6 Hz, 2H), 3.88-3.99 (m, 3H), 4.00-4.12 (m, 1H), 6.67 (d, J=9.0 Hz, 1H), 7.13-7.21 (m, 3H), 7.22-7.31 (m, 2H), 12.40 (br s, 1H).

reactant | D-threonine | 1.0 mmol, 0.12 g | N[C@H]([C@@H](O)C)C(=O)O | C4H9NO3
reactant | NaHCO3 | 1.5 mmol, 0.13 g | C(=O)(O)[O-].[Na+]
reactant | 6-phenylhexyl-2-oxopyridine 1-carboxylate | 1.5 mmol, 0.45 g | C1(=CC=CC=C1)CCCCCCOC(=O)N1C(C=CC=C1)=O | C18H21NO3
solvent | H2O | 3.5 mL | O | H2O
solvent | THF | 3.5 mL | C1CCOC1 | C4H8O
product | (2R,3S)-3-hydroxy-2-(6-phenylhexoxycarbonylamino)-butanoic acid | 0.25 g, 78% | O[C@H]([C@H](C(=O)O)NC(=O)OCCCCCCC1=CC=CC=C1)C | C17H25NO5
